US07465815B2
3-(4-Isopropylphenyl)-4-methyl-2,3-dihydronaphtho[1,2-b]furan-5-yl trifluoromethanesulfonate
To a solution of 3-(4-isopropylphenyl)-4-methyl-2,3-dihydronaphtho[1,2-b]furan-5-ol obtained in Reference Example 252 (2.60 g, 8.17 mmol) and 4-dimethylaminopyridine (2.0 g, 16.3 mmol) in pyridine (30 mL) was added anhydrous trifluoromethanesulfonate (1.51 mL, 9.00 mmol) at room temperature at 0° C., and the mixture was stirred at 50° C. for 8 hours. Water was added to the reaction solution to separate the organic layer, and the aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with 1 N hydrochloric acid and a saturated sodium hydrogen carbonate solution, dried over magnesium sulfate, filtered, and then concentrated under reduced pressure to obtain 2.8 g (yield 76%) of the title compound. Oily matter.

reactant | 3-(4-isopropylphenyl)-4-methyl-2,3-dihydronaphtho[1,2-b]furan-5-ol | C(C)(C)C1=CC=C(C=C1)C1C2=C(OC1)C1=CC=CC=C1C(=C2C)O | C22H22O2
reactant | trifluoromethanesulfonate | 9.00 mmol, 1.51 mL | FC(S(=O)(=O)[O-])(F)F
reactant | Water | O | H2O
catalyst | 4-dimethylaminopyridine | 16.3 mmol, 2.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 3-(4-Isopropylphenyl)-4-methyl-2,3-dihydronaphtho[1,2-b]furan-5-yl trifluoromethanesulfonate | 2.8 g, yield 76% | FC(S(=O)(=O)OC1=C(C2=C(OCC2C2=CC=C(C=C2)C(C)C)C2=CC=CC=C12)C)(F)F | C23H21F3O4S
